US04898945
Under a nitrogen atmosphere, 28.0 g (0.05 mole) of dichloro[1,3-bis(diphenylphosphino)propane] nickel (II) catalyst (prepared by the method of G. R. Van Hecke and W. DeW. Horrocks, Inorganic Chemistry, 5, 1968 (1966), incorporated herein by reference) was added to a solution of 240 g (1.0 mole) of 5-bromo-6-fluoro-2-methylquinoline in 3.8 liters of toluene. 440 ml (1.4 mole) of 3.17 molar methylmagnesium chloride in tetrahydrofuran was added rapidly to the above mixture, the resulting exotherm being controlled with an ice bath. The reaction was allowed to stir at room temperature overnight. The reaction was treated with 1 liter of water to destroy the excess Grignard reagent, and the organic layer and aqueous layers were then separated. The organic layer was extracted twice with 1 liter portions of 3N hydrochloric acid. The acid extracts were combined, extracted twice with 1 liter portions of methylene chloride, and made basic (pH>9) with ammonium hydroxide and ice. The product was collected as a tan solid (156.4 g, 0.894 mole). This material was recrystallized from 1 liter of hexane to give 77.1 g (0.44 mole) of 2,5-dimethyl-6-fluoroquinoline which was 98.7% pure as determined by gas chromatography analysis.

reactant | 5-bromo-6-fluoro-2-methylquinoline | 1.0 mole, 240 g | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
reactant | methylmagnesium chloride | 1.4 mole, 3.17 molar, 440 ml | C[Mg]Cl
reactant | water | 1 liter | O | H2O
catalyst | dichloro[1,3-bis(diphenylphosphino)propane] nickel (II) | 0.05 mole, 28.0 g | [Ni+2].ClC(CP(C1=CC=CC=C1)C1=CC=CC=C1)(CP(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | toluene | 3.8 liters | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,5-dimethyl-6-fluoroquinoline | 0.44 mole, 77.1 g | CC1=NC2=CC=C(C(=C2C=C1)C)F | C11H10FN
